US05360802
5-Cyclohexyl-1,3-dihydro-1-(2-methylpropyl)-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (1.0 g, 2.23 mmol) was dissolved in formic acid/methanol (130 ml of a 4.5% (v/v) solution), and added over 5 min to a stirred suspension of 10% palladium on carbon (0.36 g, 36% (w/w)) in formic acid/methanol (27 ml of a 4.5% (v/v) solution). After 4 h at room temperature the catalyst was filtered off and washed sequentially with methanol and acetone. The flitrate was evaporated in vacuo and the solid residue partitioned between ethyl acetate (500 ml) and 10% sodium carbonate solution (500 ml). The organic phase was dried (Na2SO4) and evaporated to give a clear oil, which was used without further purification. To a suspension of 5-(3-aminophenyl)tetrazole hydrochloride (0.29 g, 1.45 mmol) in tetrahydrofuran (10 ml) was added triethylamine (0.4 ml, 2.9 mmol). The mixture was cooled in an ice bath and triphosgene (0.14 g, 0.48 mmol) added, followed by triethylamine (0.3 ml, 2.2 mmol). The ice bath was removed and the mixture stirred at room temperature for 30 min. A solution of the aminobenzodiazepine (0.35 g, 1.11 mmol), from the above procedure, in tetrahydrofuran (15 ml) was added dropwise to the mixture. The reaction mixture was stirred at room temperature for 2 h, then diluted with ethyl acetate (30 ml) followed by 20% aqueous acetic acid (30 ml). After stirring for a further 15 min a white precipitate was filtered off and washed with ethyl acetate. The solid was suspended in methanol (20 ml), heated to 50° C., then filtered hot to afford N-[3(R,S)-5-cyclohexyl-2,3-dihydro-1-(2-methylpropyl )-2-oxo-1H-1,4-benzodiazepin-3-yl] N'-[3-tetrazol-5-ylphenyl]urea (280 mg, 39%) as a white solid. mp 188°-190° C. 1H NMR (360 MHz, D6 -DMSO) δ 0.65 (3H, d, J=7 Hz), 0.76 (3H, d, J=7 Hz), 0.99-1.96 (11H, m), 2.97 (1H, m), 3.62 (1H, dd, J=14 and 5 Hz), 4.15 (1H, dd, J=14 and 9 Hz), 5.05 (1H, m), 7.36-7.69 (7H, m), 7.78 (1H, d, J=8 Hz), 8.15 (1H, s), 9.23 (1H, s).

reactant | 5-Cyclohexyl-1,3-dihydro-1-(2-methylpropyl)-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 2.23 mmol, 1.0 g | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)CC(C)C)=O)NC(=O)OCC2=CC=CC=C2 | C27H33N3O3
reactant | 5-(3-aminophenyl)tetrazole hydrochloride | 1.45 mmol, 0.29 g | Cl.NC=1C=C(C=CC1)C1=NN=NN1
reactant | triethylamine | 2.9 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.48 mmol, 0.14 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 2.2 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | aminobenzodiazepine | 1.11 mmol, 0.35 g | NC1=NNC2=C(C=C1)C=CC=C2 | C9H9N3
solvent | formic acid methanol | C(=O)O.CO
catalyst | palladium on carbon | 0.36 g | [Pd] | Pd
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | N-[3(R,S)-5-cyclohexyl-2,3-dihydro-1-(2-methylpropyl )-2-oxo-1H-1,4-benzodiazepin-3-yl] N'-[3-tetrazol-5-ylphenyl]urea | 280 mg, 39% | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)CC(C)C)=O)NC(=O)NC2=CC(=CC=C2)C2=NN=NN2 | C27H32N8O2
